US03979430
2.0 Gm. of 2-(5,5-ethylenedioxy-5H-dibenzo[a,d] cyclohepten-2-yl)propionic acid methyl ester is stirred in 25 ml. of 1:1 concentrated sulfuric acid:water for 12 hours. The mixture is poured into water and extracted with ethyl acetate and the extract is washed, dried and evaporated to afford a 70% yield of 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)propionic acid, m.p. (chloroform-hexane) 138°-139°C.; m.p. (acetone-hexane) 113°-115°C. Use of 2-(5,5-ethylenedioxy-5H-dibenzo[a,d]cyclohepten-2-yl)acetic acid methyl ester gives a similar yield of 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)acetic acid, m.p. (acetone-hexane) 148°-149.5°C.

reactant | chloroform hexane | C(Cl)(Cl)Cl.CCCCCC
reactant | 2-(5,5-ethylenedioxy-5H-dibenzo[a,d]cyclohepten-2-yl)acetic acid methyl ester | COC(CC1=CC2=C(C3(C4=C(C=C2)C=CC=C4)OCCO3)C=C1)=O | C20H18O4
solvent | acetone hexane | CC(=O)C.CCCCCC
product | 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)acetic acid | C1=C(C=CC=2C(C3=C(C=CC21)C=CC=C3)=O)CC(=O)O | C17H12O3
